US08026370B2
(2-{[1-(methoxycarbonyl)cyclohexyl]thio}-1,3-thiazol-4-yl)acetic acid
(2-Mercapto-1,3-thiazol-4-yl)acetic acid (3.50 g) synthesized in Reference Example 51 and 2-bromocyclohexanecarboxylic acid methyl ester (4.42 g) were dissolved in methanol (180 mL), sodium methoxide (2.38 g) was added and the mixture was heated under reflux for 22 hr. The solvent was evaporated, and diethyl ether (50 mL) and water (50 mL) were added to the residue. After stirring, the aqueous layer was obtained by partitioning and adjusted to about pH 4 with 1 mol/L hydrochloric acid. The mixture was extracted with ethyl acetate (100 mL), and the organic layer was washed with saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (elution solvent; hexane:ethyl acetate=3:2 to 0:1) and the obtained solid was washed by suspending in hexane-ethyl acetate to give the title compound (663 mg).

reactant | (2-Mercapto-1,3-thiazol-4-yl)acetic acid | 3.50 g | SC=1SC=C(N1)CC(=O)O | C5H5NO2S2
reactant | 2-bromocyclohexanecarboxylic acid methyl ester | 4.42 g | COC(=O)C1C(CCCC1)Br | C8H13BrO2
reactant | sodium methoxide | 2.38 g | C[O-].[Na+]
solvent | methanol | 180 mL | CO | CH4O
product | (2-{[1-(methoxycarbonyl)cyclohexyl]thio}-1,3-thiazol-4-yl)acetic acid | 663 mg | COC(=O)C1(CCCCC1)SC=1SC=C(N1)CC(=O)O | C13H17NO4S2
